US07056930B2
2-Methoxy-ethanesulfonic acid [3-(2-benzyl-2-aza-bicyclo[3.3.1]non-5-yl)-phenyl]-amide
3-(2-Benzyl-2-aza-bicyclo[3.3.1]non-5-yl)-phenylamine (2.71 g, 8.84 mmol) stirred in pyridine (25 ml) at 0° C. was charged with 2-methoxy-ethanesulfonyl chloride (2.1 g, 13.26 mmol) dropwise causing a color change from yellow to bright orange. The reaction was allowed to warm to room temperature gradually and stirred 18 h. The reaction mixture was diluted with toluene and concentrated in vacuo. The residue was dissolved in CH2Cl2 and washed with saturated aqueous NaHCO3 solution (100 mL). The aqueous layer was extracted with CH2Cl2 (2×50 ml) and the organic layer was concentrated to an oil. This was dissolved in EtOAc which caused an oil to separate. The EtOAc layer was separated and washed with saturated aqueous NaHCO3 solution (100 mL). The aqueous layer was extracted with EtOAc (2×50 ml) and the combined organic layer was washed with saturated aqueous NaCl solution (50 ml), dried over Na2SO4, filtered and concentrated to a crude orange liquid (3.77 g, ˜100%). (TLC 75% EtOAc/hexanes Rf 0.48);

reactant | 3-(2-Benzyl-2-aza-bicyclo[3.3.1]non-5-yl)-phenylamine | 8.84 mmol, 2.71 g | C(C1=CC=CC=C1)N1C2CCCC(CC1)(C2)C=2C=C(C=CC2)N | C21H26N2
reactant | 2-methoxy-ethanesulfonyl chloride | 13.26 mmol, 2.1 g | COCCS(=O)(=O)Cl | C3H7ClO3S
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-Methoxy-ethanesulfonic acid [3-(2-benzyl-2-aza-bicyclo[3.3.1]non-5-yl)-phenyl]-amide | C(C1=CC=CC=C1)N1C2CCCC(CC1)(C2)C=2C=C(C=CC2)NS(=O)(=O)CCOC | C24H32N2O3S
